US07238720B2
a) 3-(6-Bromo-2-pyridyl)thio-1H-1,2,4-triazole
A mixture of 3-mercapto-1H-1,2,4-triazole (200 mg), 2,6-dibromopyridine (560 mg), anhydrous potassium carbonate (420 mg) and N,N-dimethylformamide (1 ml) was heated and stirred for 3 hours on an oil bath at 100° C. The reaction solution was extracted with ethyl acetate-water. The organic layer was washed with water, followed by saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by a silica-gel column chromatography with 5 to 30% (20% 2-propanol/ethyl acetate)/hexane to yield the title compound (73 mg).

reactant | 3-mercapto-1H-1,2,4-triazole | 200 mg | SC1=NNC=N1 | C2H3N3S
reactant | 2,6-dibromopyridine | 560 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | potassium carbonate | 420 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(6-Bromo-2-pyridyl)thio-1H-1,2,4-triazole | 73 mg | BrC1=CC=CC(=N1)SC1=NNC=N1 | C7H5BrN4S
